US06498174B1
Intermediate 1: 2-[5-methyl-2-phenyl-1,3-oxazol-4-yl]acetic acid methyl ester
To a solution of 140 g (0.67 mol) of methyl 4-bromo-3-oxo-pentanoate in 300 mL of anhydrous toluene was added 210 g (1.73 mol) of benzamide, 132 g (0.93 mol) of sodium hydrogen phosphate, and ˜20 mL of EtOH. The suspension was stirred with heating to 95° C. for 24 h, then cooled to 0° C., filtered, and the solids washed with cyclohexane (2×100 mL) followed by 20% EtOAc in hexanes (200 mL). The combined filtrates were washed with 2×100 mL 10% KOH solution and brine (100 mL). The organics were dried (MgSO4), concentrated to a thin oil, and purified by chromatography on 1 kg of silica gel (230-400 mesh). Gradient elution of the column with 10% to 50% EtOAc in Hexanes gave 54 grams (35% yield) of the title compound as a pale yellow oil; 1H NMR (CDCl3, 400 MHz) δ8.0-7.98 (m, 2H), 7.43-7.40 (m, 3H), 3.73 (s, 3H), 3.59 (s, 2H), 2.37 (s, 3H); low resolution MS (ES+)m/e 232.4 (MH+); TLC Rf=0.64 (4/1 hexanes/EtOAc).

reactant | methyl 4-bromo-3-oxo-pentanoate | 0.67 mol, 140 g | BrC(C(CC(=O)OC)=O)C | C6H9BrO3
reactant | benzamide | 1.73 mol, 210 g | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | sodium hydrogen phosphate | 0.93 mol, 132 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | EtOH | ˜20 mL | CCO | C2H6O
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[5-methyl-2-phenyl-1,3-oxazol-4-yl]acetic acid methyl ester | 54 grams, 35% yield | COC(CC=1N=C(OC1C)C1=CC=CC=C1)=O | C13H13NO3
